US07893267B2
To a solution of 0.2 g (0.35 mmol) of 2-({2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carbonyl}-amino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester in methanol (1 mL) was added HCl solution (5 mL, 4M HCl in 1,4-dioxane). The mixture was stirred at room temperature for 30 min. The conversion was checked by LCMS. After removal of the organic phase, the residue was diluted with DCM (50 mL) and the organic phase was washed with sat. aq. Na2CO3 solution, water, brine, dried over Na2SO4 and concentrated to afford 160 mg (100%) of isoquinoline-3-carboxylic acid [7-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide. LCMS: 470 (M+1)+.

reactant | 2-({2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carbonyl}-amino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 0.35 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)NC(=O)C2=CC=CC=1N=C(NC12)NC(=O)C=1N=CC2=CC=CC=C2C1 | C29H27N7O4S
reactant | HCl | 4M, 5 mL | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | isoquinoline-3-carboxylic acid [7-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 160 mg, 100% | N1=C(SC=2CNCCC21)NC(=O)C2=CC=CC1=C2NC(=N1)NC(=O)C=1N=CC2=CC=CC=C2C1 | C24H19N7O2S
